US08058269B2
The mixture of 2-chloroacetamide (3.1 g), aniline (3.1 g), K2CO3 (4.5 g) and KI (1 g) in acetonitrile (50 mL) and water (10 mL) was stirred at room temperature for overnight. The solvent was evaporated to about 20 ml under vacuum and the residue was poured into water (40 mL). The solution was extracted with ethyl acetate (3×20 mL), dried over Na2SO4 and concentrated. The residue was purified with chromatography to give 0.48 g of 2-phenylamino-acetamide.

reactant | 2-chloroacetamide | 3.1 g | ClCC(=O)N | C2H4ClNO
reactant | aniline | 3.1 g | NC1=CC=CC=C1 | C6H7N
reactant | K2CO3 | 4.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-phenylamino-acetamide | 0.48 g | C1(=CC=CC=C1)NCC(=O)N | C8H10N2O
